US09376454B2
Step 2. Synthesis of (R)-2-Hydroxy-3-[4-(1H-imidazol-2-yl)-benzoylamino]-3,4-dihydro-2H-benzo[e][1,2]oxaborinine-8-carboxylic acid
Prepared from 3-[2-[4-(1H-Imidazol-2-yl)-benzoylamino]-2-(2,9,9-trimethyl-3,5-dioxa-4-bora-tricyclo[6.1.1.02,6]dec-4-yl)-ethyl]-2-methoxy-benzoic acid tert-butyl ester and BCl3 following the procedure described in Step 2 of Example 1. The crude product was purified by reverse phase preparative HPLC and dried using lyophilization. ESI-MS m/z 378 (MH)+.

reactant | 3-[2-[4-(1H-Imidazol-2-yl)-benzoylamino]-2-(2,9,9-trimethyl-3,5-dioxa-4-bora-tricyclo[6.1.1.02,6]dec-4-yl)-ethyl]-2-methoxy-benzoic acid tert-butyl ester | C(C)(C)(C)OC(C1=C(C(=CC=C1)CC(B1OC2(C3C(C(CC2O1)C3)(C)C)C)NC(C3=CC=C(C=C3)C=3NC=CN3)=O)OC)=O | C34H42BN3O6
reactant | BCl3 | B(Cl)(Cl)Cl | BCl3
product | (R)-2-Hydroxy-3-[4-(1H-imidazol-2-yl)-benzoylamino]-3,4-dihydro-2H-benzo[e][1,2]oxaborinine-8-carboxylic acid | OB1OC2=C(C[C@@H]1NC(C1=CC=C(C=C1)C=1NC=CN1)=O)C=CC=C2C(=O)O | C19H16BN3O5
